US04372953
1-Methyl-5-(3-chloropropylthio)-1,2,3,4-tetrazole (3.8 g) is dissolved in dimethylformamide (50 ml). To the mixture are added sodium iodide (3 g) and diethylamine (4.4 g) and the mixture is stirred at 60°-70° C. for 3 hours. Dimethylformamide is distilled off under reduced pressure, and the residue is purified by alumina column chromatography (basic alumina, made by Merk & Co.), followed by eluting with n-hexane to give 1-methyl-5-[3-(N,N-diethylamino)propylthio]-1,2,3,4-tetrazole (1.1 g), colorless liquid, nD25 =1.5040.

reactant | 1-Methyl-5-(3-chloropropylthio)-1,2,3,4-tetrazole | 3.8 g | CN1N=NN=C1SCCCCl | C5H9ClN4S
reactant | sodium iodide | 3 g | [I-].[Na+]
reactant | diethylamine | 4.4 g | C(C)NCC | C4H11N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-methyl-5-[3-(N,N-diethylamino)propylthio]-1,2,3,4-tetrazole | 1.1 g | CN1N=NN=C1SCCCN(CC)CC | C9H19N5S
